US06521663B2
1. 2-{3-[(2,2-Difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}-N-({6-[(tert-butoxy)carbonylamino]-2,4-dimethyl(3-pyridyl)}methyl) acetamide
To a solution of 2-{3-[(2,2-difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}acetic acid (25 mg, 73 μmol), as prepared in step 15 of Example 1, in DMF (0.25 mL) was added BOP (52 mg, 116 μmol), a solution of DIEA (38 mg, 295 mol) in DMF (0.1 mL), and N-[5-(aminomethyl)-4,6-dimethyl(2-pyridyl)] (tert-butoxy) carboxamide (23 mg, 91 μmol) (Sanderson, P. E., et al. WO 97/01338 (1997)). After stirring at ambient temperature for 2 days, additional amine (7 mg, 28 μmol) BOP (16 mg, 36 μmol), and DIEA (9 mg, 70 μmol) were added, and the mixture was stirred for another 16 hours. The solvents were evaporated, and the resulting residue was partitioned between saturated NaHCO3 and DCM. The organic layer was separated, and the aqueous layer was extracted with DCM. The organic layers were combined, washed with 10% citric acid, H2O, and brine, dried over Na2SO4, concentrated, and flash chromatographed on silica gel eluting with MeOH/DCM (0, 1, 2%) to produce the title compound (18.5 mg, 44% yield) as a pale brown solid. 1H-NMR (400 MHz, CDCl3) δ 7.58 (s, 1H), 7.50-7.41 (m, 5H), 7.24 (s, 1H), 6.98 (dd, J=8.8, 1.1 Hz, 1H), 6.55 (t, J=9.0 Hz, 1H), 5.33 (bs, 1H), 4.40 (d, J=4.7 Hz, 2H), 4.24-4.20 (m, 1H), 3.78-3.70 (m, 4H), 2.39 (s, 3H), 2.28 (s, 3H), 1.50 (s, 9H). Mass spectrum (LCMS, ESI) calcd for C29H33ClF3N4O3 (M+H): 577.0. Found: 577.1.

reactant | 2-{3-[(2,2-difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}acetic acid | 73 μmol, 25 mg | FC(CNC=1C(=C(C(=CC1)Cl)CC(=O)O)F)(C1=CC=CC=C1)F | C16H13ClF3NO2
reactant | BOP | 116 μmol, 52 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 295 mol, 38 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-[5-(aminomethyl)-4,6-dimethyl(2-pyridyl)] (tert-butoxy) carboxamide | 91 μmol, 23 mg | NCC=1C(=CC(=NC1C)NC(=O)OC(C)(C)C)C | C13H21N3O2
reactant | DIEA | 70 μmol, 9 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-{3-[(2,2-Difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}-N-({6-[(tert-butoxy)carbonylamino]-2,4-dimethyl(3-pyridyl)}methyl) acetamide | 18.5 mg, 44% yield | FC(CNC=1C(=C(C(=CC1)Cl)CC(=O)NCC=1C(=NC(=CC1C)NC(=O)OC(C)(C)C)C)F)(C1=CC=CC=C1)F | C29H32ClF3N4O3
